US04639441
p-Nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)acetate
Following the procedure of Preparation 24, but using p-nitrobenzyl thioformylglycinate (254 mg.), magic methyl (81 μl.), triethylamine (350 μl) and methoxyacetyl chloride (91 μl.), there were obtained 26 mg of the desired product.

reactant | p-nitrobenzyl thioformylglycinate | 254 mg | C(=S)NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O4S
reactant | magic methyl | 81 μl | COS(=O)(=O)F | CH3FO3S
reactant | methoxyacetyl chloride | 91 μl | COCC(=O)Cl | C3H5ClO2
solvent | triethylamine | 350 μl | C(C)N(CC)CC | C6H15N
product | p-Nitrobenzyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)acetate | 26 mg | COC1C(N(C1SC)CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H16N2O6S
